Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old F w/ HTN, CKD, HF, CVA,
dementia, and chronic anemia who presented to the ED with
shortness of breath. Her family reportedly found her at her
nursing facility to be in respiratory distress today. MOLST
stated DNR/DNI/no CPAP but after discussion with family, okay 
for
CPAP. Brought into ambulance to ED. 

In the ED, 
- Initial Vitals: T 98.2 HR 82 BP 121/51 RR 17 SPO2 100% BiPAP 
- Exam: Mild respiratory distress, tachypnea, bilateral wheezes
- Labs: Hgb 7.0, proBNP 2391, negative trops x1, normal lactate,
VBG 7.___ 
- Imaging: CXR showed cardiomegaly without superimposed acute
cardiopulmonary process. US at bedside showed diffuse B-lines 
and
cardiomegaly 
- Interventions: Placed on BiPAP, attempted to wean her to 3LNC
but did not tolerate. Given albuterol nebs and ipratropium

Upon arrival to the floor, she is asking for the mask to be 
taken
off. She denies any chest pain, shortness of breath, or 
distress.
No N/V. Called ___ and requested records to be faxed
over.
 
Past Medical History:
HTN
CKD
HF
CVA
Dementia
Chronic anemia 
 
Social History:
___
Family History:
Unable to obtain given dementia 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 97.9 70 124/53 27 100% BiPAP  
GEN: Elderly woman laying in bed with BiPAP on, in no distress
HEENT: PER. EOMI. No facial droop. BiPAP mask in place
CV: RRR. Nl s1/s2. No m/r/g
RESP: Diffuse wheezing heard throughout all lung fields. No
crackles or rhonchi. Breathing comfortably in ___. Able to speak
full sentences. Not using accessory muscles. 
GI: Soft. Non-tender. Non-distended. Normoactive BS. 
SKIN: Thin. Warm
NEURO: Alert and interactive. Oriented to place but not time or
person. 

DISCHARGE PHYSICAL EXAM
 
Pertinent Results:
ADMISSION LABS
___ 07:30PM BLOOD WBC-7.9 RBC-2.67* Hgb-7.0* Hct-24.2* 
MCV-91 MCH-26.2 MCHC-28.9* RDW-17.6* RDWSD-58.5* Plt ___
___ 07:30PM BLOOD Neuts-80.8* Lymphs-8.4* Monos-6.4 Eos-3.5 
Baso-0.5 Im ___ AbsNeut-6.40* AbsLymp-0.67* AbsMono-0.51 
AbsEos-0.28 AbsBaso-0.04
___ 07:47PM BLOOD ___ PTT-27.2 ___
___ 07:30PM BLOOD Glucose-127* UreaN-27* Creat-1.3* Na-143 
K-4.0 Cl-106 HCO3-18* AnGap-19*
___ 07:30PM BLOOD proBNP-2391*
___ 07:30PM BLOOD cTropnT-<0.01
___ 07:30PM BLOOD Calcium-8.6 Phos-4.3 Mg-2.3
___ 07:54PM BLOOD ___ pO2-35* pCO2-52* pH-7.29* 
calTCO2-26 Base XS--2
___ 07:40PM BLOOD Lactate-1.8
___ 07:54PM BLOOD O2 Sat-53

PERTINENT/DISCHARGE LABS

IMAGING/STUDIES
CXR ___- Cardiomegaly without superimposed acute 
cardiopulmonary process.
 
Brief Hospital Course:
Ms. ___ is a delightful ___ F w/ HTN, CKD, HFpEF, AF 
(not on AC), CVA, vascular dementia, and chronic 
transfusion-dependent anemia who presented to the ED with 
shortness of breath requiring brief ICU stay for use of BIPAP. 

# Acute hypoxic/hypercarbic respiratory failure
# Presumed COPD with acute exacerbation
Presentation with acute respiratory failure and clinically 
obstructive respiratory physiology, which was likely secondary 
to COPD/asthma exacerbation. She improved significantly with 
steroids/azithromycin and broncholidators. 
- She will complete a brief prednisone taper with three more 
days of 20 mg PO daily
- She will complete a Z-pack with two more days of azithromycin 
250 mg daily
- Fluticasone BID (home med) and bronchodilator nebs PRN
- Started daily Spiriva (per current COPD guidelines for use of 
a LAMA)

# Chronic diastolic heart failure
# Hypertension
- Continue home ___
- Continue home metoprolol
- Patient noted to have elevated BNP and top-normal JVP of about 
9 cm water. Her BP also ran a bit high throughout her 
hospitalization. As such, we increased her Lasix form 20 mg five 
days a week to 20 mg daily.

# Acute on chronic anemia
Followed as an outpatient. Thought to be multifactorial ___ GIB
and CKD. Managing conservatively with PO iron and blood
transfusions prn. Iron studies normal this hospitalization. 
Transfused on ___ given Hgb <7,  but no evidence of 
active bleed  
- continue home iron 

# Cerebrovascular accident 
# A fib
Left medial temporal lobe infarct in early ___. Discharging 
physician does not have the primary records for review, but 
apparently there was also a small spontaneous head bleed at some 
point, which was incidentally diagnosed in the absence of any 
trauma; this sounds suggestive of amyloid angiopathy? She also 
has a-fib but is not on AC, presumably due to her presumed 
chronic slow GI bleed and/or this history of spontaneous 
intracranial hemorrhage. 
- Continue home statin
- continue to weigh risks and benefits of AC, although it sounds 
like strong contraindications are probably present

# HLD
- Continue home statin

# GERD
- Continue home pantoprazole 

# Nutrition: 
- cleared by speech and swallow for regular solids and thin 
liquids

# Code Status: DNR/DNI (OK for niPPV, IVF, hospitalization; see 
MOLST from ___
# HCP: ___, niece (HCP): ___

====================
TRANSITIONAL ISSUES
====================

1) Med changes:
- starting Spiriva
- she will complete a quick prednisone taper and has two more 
doses left on a Z-pack
- modestly increased Lasix to daily from five days a week

2) Note that a new MOLST was completed (DNR/DNI but OK for 
niPPV, IVF, hospitalization)

3) She is not anticoagulated for A-fib despite a CHA2DS2-VASc of 
7. I believe she has one or more absolute contraindications to 
anticoagulation, but her PCP who knows the medical history more 
completely is asked to verify that this is the case. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO QPM 
2. Ferrous Sulfate 325 mg PO BID 
3. Fluticasone Propionate 110mcg 2 PUFF IH BID 
4. Furosemide 20 mg PO 5X/WEEK (___) 
5. Losartan Potassium 50 mg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Pantoprazole 40 mg PO Q24H 
8. Loratadine 10 mg PO DAILY 
9. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
10. Ipratropium-Albuterol Neb 1 NEB NEB Q4-6H prn shortness of 
breath 
11. Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 2 Doses  
2.  PredniSONE 20 mg PO DAILY Duration: 3 Days  
3.  Tiotropium Bromide 1 CAP IH DAILY  
4.  Furosemide 20 mg PO DAILY  
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Atorvastatin 80 mg PO QPM  
7.  Bisacodyl 10 mg PR QHS:PRN Constipation - Second Line  
8.  Ferrous Sulfate 325 mg PO BID  
9.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
10.  Ipratropium-Albuterol Neb 1 NEB NEB Q4-6H prn shortness of 
breath  
11.  Loratadine 10 mg PO DAILY  
12.  Losartan Potassium 50 mg PO DAILY  
13.  Metoprolol Succinate XL 25 mg PO DAILY  
14.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
COPD with acute exacerbation
Acute hypercarbic respiratory failure

 
Discharge Condition:
Mental Status: Confused - always (but charmingly so)
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to ___ with shortness of breath. Although 
you have not had formal workup, you seem to have COPD or asthma. 
You improved with prednisone, azithromycin, and nebulizers. 
 
Followup Instructions:
___